US08106043B2
tert-Butyl methyl(2-(6-(thiophene-2-carboximidamido)-2H-benzo[b][1,4]thiazin-4(3H)-yl)ethyl)carbamate:
A stirred suspension of tert-butyl methyl(2-(6-nitro-2H-benzo[b][1,4]thiazin-4(3H)-yl)ethyl)carbamate (650 mg, 1.839 mmol) and palladium, 10 wt. % on activated carbon (196 mg, 0.184 mmol) in ethanol (10 mL) was stirred under an atmosphere of hydrogen (balloon pressure) at room temperature for 2 hours. To the mixture was then added methyl thiophene-2-carbimidothioate hydroiodide (787 mg, 2.76 mmol), and the resulting suspension was stirred at room temperature overnight. The mixture was filtered to remove palladium, diluted with water and saturated sodium carbonate, and then extracted with dichloromethane (3×). The combined organics were dried, filtered, concentrated, and then chromatographed in 2:3 ethyl acetate:hexanes to afford the desired product (420 mg, 52.8%). 1H NMR (DMSO-d6) δ 7.72-7.68 (m, 1H), 7.58 (d, J=5.1 Hz, 1H), 7.09-7.05 (m, 1H), 6.84 (d, J=7.8 Hz, 1H), 6.38-6.21 (m, 3H), 6.08 (d, J=8.4 Hz, 1H), 3.64-3.56 (m, 2H), 3.42-3.33 (m, 4H), 3.03-2.94 (m, 2H), 2.81 (s, 3H), 1.36-1.22 (m, 9H); ESI-MS (m/z, %): 433 (MH+, 100).

reactant | tert-butyl methyl(2-(6-nitro-2H-benzo[b][1,4]thiazin-4(3H)-yl)ethyl)carbamate | 1.839 mmol, 650 mg | CN(C(OC(C)(C)C)=O)CCN1C2=C(SCC1)C=CC(=C2)[N+](=O)[O-] | C16H23N3O4S
reactant | methyl thiophene-2-carbimidothioate hydroiodide | 2.76 mmol, 787 mg | I.S1C(=CC=C1)C(=N)SC
solvent | ethanol | 10 mL | C(C)O | C2H6O
catalyst | palladium | [Pd] | Pd
product | tert-Butyl methyl(2-(6-(thiophene-2-carboximidamido)-2H-benzo[b][1,4]thiazin-4(3H)-yl)ethyl)carbamate | 420 mg, 52.8% | CN(C(OC(C)(C)C)=O)CCN1C2=C(SCC1)C=CC(=C2)NC(=N)C=2SC=CC2 | C21H28N4O2S2
